US06969714B2
N-(3-Morpholinopropyl)-4-iodobenzenesulphonamide
4-Iodophenylsulphonyl chloride (3.03 g, 10 mmol) in DCM (30 ml) was added dropwise over 15 minutes to a solution of 4-(3-aminopropyl)morpholine (1.75 ml, 12 mmol) and triethylamine (1.7 ml, 12 mmol) in DCM (50 ml) cooled in an ice bath. The mixture was allowed to warm to ambient temperature and stirred for 15 minutes. Water (50 ml) was added and the phases separated. The organic layer was washed with water (50 ml) and brine (50 ml), dried (Chemelut column 1010) and evaporated to give the title compound (4.10 g, 100%) as a beige solid. NMR 1.70 (m, 2H), 2.43 (m, 6), 3.14 (t, 2H), 3.71 (m, 4H), 7.08 (s, 1H), 7.58 (d, 2H), 7.85 (d, 2H); m/z 411.

reactant | 4-Iodophenylsulphonyl chloride | 10 mmol, 3.03 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 4-(3-aminopropyl)morpholine | 12 mmol, 1.75 ml | NCCCN1CCOCC1 | C7H16N2O
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 50 ml | O | H2O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Morpholinopropyl)-4-iodobenzenesulphonamide | 4.10 g, 100% | O1CCN(CC1)CCCNS(=O)(=O)C1=CC=C(C=C1)I | C13H19IN2O3S
